US08580957B2
A flask was charged with (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride (for a preparation see Intermediate 108) (130 mg, 0.309 mmol), 2-bromo-5-methylpyridine (159 mg, 0.926 mmol), sodium tert-butoxide (148 mg, 1.544 mmol), 2-(dimethylamino)-2′-(dicyclohexylphosphino)biphenyl (DavePhos) (243 mg, 0.617 mmol) and tris(dibenzylideneacetone)dipalladium(0) (283 mg, 0.309 mmol) then flushed with nitrogen and filled with degassed toluene (3 mL). The resulting mixture was stirred at 100° C. for 1.5 h then cooled to room temperature and filtered through celite. The insoluble material was washed with AcOEt and the combined filtrate and washings were concentrated in vacuo. The residue was partitioned between water and AcOEt and the layers were separated. The aqueous phase was extracted with AcOEt and the combined organic phases were washed with water then brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by SP4 using a 25 G silica cartridge (gradient:13 to 63% AcOEt in Hexanes) gave (2S,4R)-1-acetyl-2-methyl-N-(5-methyl-2-pyridinyl)-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine (120 mg, 0.252 mmol, 82% yield) as a yellow foam which was used in the next step without further purification.

reactant | (2S,4R)-1-acetyl-2-methyl-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine hydrochloride | Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)N)C
reactant | 2-bromo-5-methylpyridine | 0.926 mmol, 159 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | sodium tert-butoxide | 1.544 mmol, 148 mg | CC(C)([O-])C.[Na+]
reactant | 2-(dimethylamino)-2′-(dicyclohexylphosphino)biphenyl | 0.617 mmol, 243 mg | CN(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C | C26H36NP
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.309 mmol, 283 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2S,4R)-1-acetyl-2-methyl-N-(5-methyl-2-pyridinyl)-6-{[tris(1-methylethyl)silyl]ethynyl}-1,2,3,4-tetrahydro-4-quinolinamine | 0.252 mmol, 120 mg, 82% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C#C[Si](C(C)C)(C(C)C)C(C)C)NC1=NC=C(C=C1)C)C | C29H41N3OSi
